US07750163B2
1.7 2-[(1E,3E)-4-Anilinobuta-1,3-dienyl]-1-ethyl-3-methyl-3-(4-sulphobutyl)-3 H-indolium-5-sulphonate
1-Ethyl-2,3-dimethyl-3-(4-sulphobutyl)-3H-indolium-5-sulphonate, crude (1.1 g), malonaldehyde bis(phenylimine) HCl (0.5 g) and acetic acid (20 ml) were heated under nitrogen at 130° C. for 8 hrs to give a dark orange-red solution. The solvent was then evaporated under vacuum; the residue was partitioned in a water/dichloromethane/methanol mixture. UV/Vis is analysis (ethanol) confirmed the presence of the product in the upper, aqueous layer (λmax=524 nm) while the malonaldehyde starting material was present only in the lower, organic layer (λmax=384 nm). The aqueous layer was evaporated under vacuum and purified by HPLC (water/0.1% TFA and acetonitrile/0.1% TFA eluants). Fractions containing the product were pooled and evaporated, with final drying under high vacuum over phosphorus pentoxide to give the title product.

reactant | 1-Ethyl-2,3-dimethyl-3-(4-sulphobutyl)-3H-indolium-5-sulphonate | C(C)[N+]1=C(C(C2=CC(=CC=C12)S(=O)(=O)[O-])(CCCCS(=O)(=O)O)C)C | C16H23NO6S2
reactant | malonaldehyde bis(phenylimine) HCl | 0.5 g | Cl.C1(=CC=CC=C1)N=CCC=NC1=CC=CC=C1
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 2-[(1E,3E)-4-Anilinobuta-1,3-dienyl]-1-ethyl-3-methyl-3-(4-sulphobutyl)-3 H-indolium-5-sulphonate | N(C1=CC=CC=C1)/C=C/C=C/C1=[N+](C2=CC=C(C=C2C1(CCCCS(=O)(=O)O)C)S(=O)(=O)[O-])CC | C25H30N2O6S2
